US09216980B2
Step 2: (6-Methoxy-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester
n-Butyllithium (2.5M in hexanes, 100 mL, 240 mmol) was added dropwise over 1 h to a cooled (−78° C.) mixture of tert-butyl-6-methoxypyridin-3-ylcarbamate (16 g, 71 mmol) and N,N,N′,N′-tetramethylethylenediamine (34 mL, 221 mmol) in diethyl ether (100 mL). The reaction was stirred at −78° C. for 30 minutes, then warmed to −20° C. and left stirring for 3 h. The reaction mixture was transferred via cannula over fifteen minutes to a cold (−78° C.) solution of 1-chloro-2-iodoethane (48 g, 243 mmol) in diethyl ether (50 mL). On complete addition, the reaction mixture was allowed to warm to room temperature and left stirring at this temperature for 16 h. The reaction was quenched with saturated aqueous ammonium chloride (30 mL) and water (200 mL) then extracted with ethyl acetate (2×100 mL). The combined organic layer was washed with saturated sodium sulfite (50 mL), 1N hydrochloric acid (100 mL), water (100 mL), saturated sodium bicarbonate solution (100 mL) and brine (50 mL), dried over sodium sulfate, and evaporated to give a residue which was purified by flash chromatography (silica, 120 g column, ISCO, 0-40% ethyl acetate in hexanes) to afford the title compound as a white cyrstaline solid (18 g, 72%).

reactant | n-Butyllithium | 240 mmol, 2.5M, 100 mL | C(CCC)[Li]
reactant | tert-butyl-6-methoxypyridin-3-ylcarbamate | 71 mmol, 16 g | C(C)(C)(C)OC(NC=1C=NC(=CC1)OC)=O | C11H16N2O3
reactant | N,N,N′,N′-tetramethylethylenediamine | 221 mmol, 34 mL | CN(CCN(C)C)C | C6H16N2
reactant | 1-chloro-2-iodoethane | 243 mmol, 48 g | ClCCI | C2H4ClI
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | (6-Methoxy-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=NC(=CC1I)OC)=O | C11H15IN2O3
